US07700655B2
(3) N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(2-methylthiazol-4-yl)benzamide (Compound No. 74)
2-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-(2-methylthiazol-4-yl)benzamide (160 mg, 0.3 mmol) and 10% Pd—C (240 mg) were dissolved in ethanol (10 ml) and stirred for 3.5 hours under hydrogen atmosphere. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure to give the title compound (103.4 mg, 79.2%) as a white solid.

reactant | 2-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-(2-methylthiazol-4-yl)benzamide | 0.3 mmol, 160 mg | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C=1N=C(SC1)C | C26H18F6N2O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd—C | 240 mg | [Pd] | Pd
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(2-methylthiazol-4-yl)benzamide | 103.4 mg, 79.2% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C=1N=C(SC1)C)O)=O)(F)F | C19H12F6N2O2S
